US20010018535A1
Preparation of Glycidyloxypropyltrimethylsilane
Allyl glycidyl ether (30.3 g, 0.266 moles) and 3 mg of platinum catalyst are weighed into a 300 mL laboratory autoclave. The autoclave, together with its contents, is cooled in an acetone/dry ice bath in an atmosphere of argon and 19.7 g of trimethylsilane (0.266 moles with a boiling point of 6.7° C.) are siphoned over from the condensed phase. The autoclave is closed and heated to 130° C. At the same time, the internal pressure increases to 7.6 bar and then drops again to 3.2 bar, indicating a reaction.

reactant | Allyl glycidyl ether | 0.266 moles, 30.3 g | C(C1CO1)OCC=C | C6H10O2
reactant | trimethylsilane | 19.7 g | C[SiH](C)C | C3H10Si
catalyst | platinum | 3 mg | [Pt] | Pt
product | Glycidyloxypropyltrimethylsilane | C(C1CO1)OCCC[Si](C)(C)C | C9H20O2Si
